US06538152B1
To a solution of ethyl 2-[4-(2-bromoethyl)-2-hydroxyphenoxy]acetate (400 mg) in N,N-dimethylformamide (4 ml) were added potassium carbonate (200 mg) and benzyl bromide (0.17 ml) and the mixture was stirred for 13.5 hours at room temperature. The reaction mixture was poured into water and extracted with a mixed solution of diethyl ether and ethyl acetate (3/1). The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=17/3) gave ethyl 2-[2-benzyloxy-4-(2-bromoethyl)phenoxy]acetate (252 mg).

reactant | ethyl 2-[4-(2-bromoethyl)-2-hydroxyphenoxy]acetate | 400 mg | BrCCC1=CC(=C(OCC(=O)OCC)C=C1)O | C12H15BrO4
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.17 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-benzyloxy-4-(2-bromoethyl)phenoxy]acetate | 252 mg | C(C1=CC=CC=C1)OC1=C(OCC(=O)OCC)C=CC(=C1)CCBr | C19H21BrO4
